US05077288
4-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-1-(2-pyrimidinyl) piperazine dihydrochloride
This compound was prepared from 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine and 1-(2-pyrimidinyl) piperzine according to the process described in Example 3, Stage B.

reactant | 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine | ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H17ClFNO
reactant | 1-(2-pyrimidinyl) piperzine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 4-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-1-(2-pyrimidinyl) piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2CCN(CC2)C2=NC=CC=N2)C=C1 | InChI=1S/C22H28FN5O.2ClH/c23-20-4-2-18(3-5-20)21(29)19-6-10-26(11-7-19)12-13-27-14-16-28(17-15-27)22-24-8-1-9-25-22;;/h1-5,8-9,19H,6-7,10-17H2;2*1H
